US06987114B1
1-(2-Butanon-1-yl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 1-bromo-2-butanone were reacted by the same way with the example 1 to obtain the titled compound (196 mg, yield: 55%).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | 1-bromo-2-butanone | BrCC(CC)=O | C4H7BrO
product | 1-(2-Butanon-1-yl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 196 mg, yield: 55% | C(C(CC)=O)N1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C20H24N2O4
